US04412043
Preparation of Ethylene/Methyl Acrylate/Maleic Anhydride Copolymer
6.34 kg/h of ethylene plus 1.06 kg/h of liquid monomers containing by weight 97.2% methyl acrylate (MA), 2.7% maleic anhydride and 0.1% butylated hydroxy toluene (BHT) as well as 0.2-0.3 kg/h of methanol as telogen were fed continuously to a 720 ml adiabatic continuous stirred tank reactor. Reaction was initiated and maintained by the addition of di(sec-butyl)peroxydicarbonate (20% PDC/80% t-butylbenzene). Reaction conditions: Reactor temperature=160° C., Feed temp.=25° C. Pressure=186 MPa, Total monomer conversion=15±1%. Comonomers were introduced into the hot reactor at appropriate reactor pressures to avoid phase separation. Approximately 6.5 kg of E/MA/maleic anhydride polymer was made with a measured composition of 46.5/51/2.5 wt % and a melt flow rate (2160 grams weight, 190° C.) of 7-9.

reactant | ethylene | C=C | C2H4
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | di(sec-butyl)peroxydicarbonate | C(C)(CC)OC(=O)OOC(=O)OC(C)CC | C10H18O6
solvent | methanol | CO | CH4O
product | Ethylene/Methyl Acrylate Maleic Anhydride | C=C.C(C=C)(=O)OC.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H6O2.C2H4/c5-3-1-2-4(6)7-3;1-3-4(5)6-2;1-2/h1-2H;3H,1H2,2H3;1-2H2
